US05447954
±(3R*,5R*) 3-(Carboxymethyl)-5-[6-(2,4-dichlorophenyl)hexyl]tetrahydrofuran-2-one and its diastereoisomer
m-Chloroperbenzoic acid (50% grade, 1.38 g, 4.01 mmol) was added in portions to a vigorously stirred mixture of 8-(2,4-dichlorophenyl)-1-octene (687 mg, 2.67 mmol), saturated aqueous NaHCO3 (15 ml), and dichloromethane (10 ml) at 0° C. The mixture was stirred for 5 min at 0° C., at room temperature for 1 h, then poured into water, and extracted with ether. The extracts were washed with aqueous Na2SO3 /NaHCO3, water, saturated aqueous NaCl, and dried (MgSO4). The solvent was removed under vacuum and the residue purified by chromatography on silica gel (5-20% ether/petroleum ether 40°-60° C.) to give the title compound (265 mg, 25%, 3 steps) as an oil.

reactant | m-Chloroperbenzoic acid | 4.01 mmol, 1.38 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 8-(2,4-dichlorophenyl)-1-octene | 2.67 mmol, 687 mg | ClC1=C(C=CC(=C1)Cl)CCCCCCC=C | C14H18Cl2
reactant | NaHCO3 | 15 ml | C(=O)(O)[O-].[Na+]
reactant | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
product | (3R*,5R*) 3-(Carboxymethyl)-5-[6-(2,4-dichlorophenyl)hexyl]tetrahydrofuran-2-one | 265 mg, 25% | C(=O)(O)C[C@@H]1C(O[C@@H](C1)CCCCCCC1=C(C=C(C=C1)Cl)Cl)=O | C18H22Cl2O4
